US06506733B1
Potassium fluoride (0.326 g, 5.61 mmol) was added to a mixture of the tert-butyl (S)-3-bromo-2-oxo-1-phenethylpropylcarbamate (1.00 g, 2.81 mmol) and 2,5-dichlorobenzoic acid (1.07 g, 5.61 mmol) in DMF (10 mL). The mixture was stirred for 2 hours at room temperature and then ethyl acetate (75 mL) was added. The solution was washed with 1M hydrochloric acid (20 mL), saturated aqueous sodium bicarbonate (20 mL), dried (MgSO4), filtered, and evaporated to dryness to provide crude (S)-3-tert-butoxycarbonylamino-2-oxo-5-phenylpentyl 2,5-dichlorobenzoate.

reactant | Potassium fluoride | 5.61 mmol, 0.326 g | [F-].[K+]
reactant | tert-butyl (S)-3-bromo-2-oxo-1-phenethylpropylcarbamate | 2.81 mmol, 1.00 g | BrCC([C@H](CCC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C16H22BrNO3
reactant | 2,5-dichlorobenzoic acid | 5.61 mmol, 1.07 g | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-3-tert-butoxycarbonylamino-2-oxo-5-phenylpentyl 2,5-dichlorobenzoate | ClC1=C(C(=O)OCC([C@H](CCC2=CC=CC=C2)NC(=O)OC(C)(C)C)=O)C=C(C=C1)Cl | C23H25Cl2NO5
